US07919491B2
cis-2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[1-(hydroxymethyl)hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E57)
A suspension of 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide [WO 2005/002577] (100 mg), (8aS)-hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one (D76, 79 mg, 3 eq), CuI (72 mg, 2 eq), N,N′-Dimethylethylenediamine (40 μl, 2 eq) and CsCO3(122.4 mg, 2 eq) in dioxane (3 ml) was heated in a sealed tube at 80° C. for 4 hrs and at 120° C. overnight. The reaction mixture was taken up with dichloromethane and it was washed with NH4Cl aq. The organic phase was evaporated to dryness and the crude was purified by chromatography (silica cartridge, cyclohexane:EtOAc 1:1 to 0:1) to give the title compound (39 mg).

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | (8aS)-hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one | 79 mg, 3 eq | C1([C@H]2N(CCN1)CCC2)=O | C7H12N2O
reactant | N,N′-Dimethylethylenediamine | 40 μl, 2 eq | CNCCNC | C4H12N2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | CuI | 72 mg, 2 eq | [Cu]I
product | cis-2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[1-(hydroxymethyl)hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | 39 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@H]([C@H]2N(CC1)CCC2)CO)(C)C)(F)F | C33H35F7N4O2
